Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Trazodone / Nexium / Reglan / latex
 
Attending: ___.
 
Chief Complaint:
Dyspahgia, anorexia, wt loss, dehydration
 
Major Surgical or Invasive Procedure:
PEG placement ___

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Ms. ___ is a pleasant ___ yo F with 
tardive dyskinesia from metoclopramide therapy last ___, 
hypothyroidism, migraines, who presents as a direct admission 
for malnutrition/dehydration in setting of progressive TD.  Pt 
was given 3 doses of reglan in the ED for treatment of migraine 
last ___.  Since that time, she slowly developed TD, over the 
last week symptoms have gotten significantly worse such that she 
has difficulty eating and speaking.  She is followed by Dr. 
___ from neurology, and was recently prescribed 
valbenazine however is awaiting insurance approval.  She is also 
followed closely nutrition given her inability to take POs due 
to her TD.  She has reportedly lost 10% of her body weight since 
___, BMI now around 17.  Given acutely progressive inability 
to tolerate oral intake, direct admission was requested for IV 
hydration, nutrition/S&S eval and eval for PEG placement.  

On the floor, pt has no other complaints.  She does state that 
she has some coughing with drinking, but not after eating.  Her 
daughter is concerned that oral dryness as well as difficulty 
swallowing are causing aspiration.  Pt tells me that sxs are 
worse at night and she therefore tries to eat as much as she can 
in the morning.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies  shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt ros otherwise negative.

 
Past Medical History:
(per chart, confirmed with pt):
Migraines
Cervical stenosis
ALLERGIC RHINITIS 
HYPOTHYROIDISM 
TD

 
Social History:
___
Family History:
(per chart, confirmed with pt):
Mother LUNG CANCER 
___ ? DIABETES TYPE II, stroke 

 
Physical Exam:
Vitals: 97.8 PO 118 / 76 62 18 96 RA 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MM dry, severe TD with inability to close jaw and 
difficulty speaking
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

Discharge PE:
VS: 97.4 135 / 88 80 18 95 Ra 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, severe TD with inability to close jaw and difficulty
speaking
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, mild tenderness around PEG site, PEG site c/d/I 
without erythema or drainage, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
 
Pertinent Results:
EGD ___:
Impression: Erythema in the proximal antrum compatible with 
gastritis
Otherwise normal EGD to stomach 
Recommendations: - Meds ok on day # 1, start TF on day #2
- We will loosen bumper slightly at day #2 and document location 
of bumper.
- Flush peg daily or after each tube feed with 30 cc water.
- Cleanse tube site with damp cloth/gauze and change dressing 
daily with dressing placed OVER bumper (not under bumper).
- Record marking in centimeters at time of discharge 

Discharge labs:

___ 07:35AM BLOOD WBC-7.0# RBC-4.07 Hgb-12.6 Hct-38.0 
MCV-93 MCH-31.0 MCHC-33.2 RDW-12.9 RDWSD-44.1 Plt ___
___ 07:35AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.2
___ 07:40AM BLOOD TSH-0.24*
 
Brief Hospital Course:
___ yo F admitted for severe malnutrition and feeding tube 
placement for severe tardive dyskinesia.

# Severe protein calorie malnutrition/TD/dysphagia: with >10% wt 
loss in ___ m, inability to tolerate PO and with some concern for 
aspiration.  She and her husband report the problem has only 
been worsening despite outpatient neurology treatments. GI was 
consulted, she underwent PEG tube placement today and was 
tolerating bolus tube feeds well.  
-Continue bolus tube feeds, plan for now for 100% of nutritional 
needs
-Follow-up with neurology
-cont home clonazepam, gabapentin, orphenadrine
-Follow-up with nutrition as outpatient
-Follow-up with speech and swallow as outpatient

# Hypothyroidism: TSH slightly low but no clinical signs of 
hyperthyroidism.
-cont home levothyroxine.  
-Repeat TSH as outpatient 

# FEN: pureed solids and thin liquids by mouth for comfort, tube 
feeds
# PPX: low risk for dvt, held heparin
# ACCESS: peripherals
# CODE: presumed full
# CONTACT: Husband ___ ___
# DISPO: home with services 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 
2. estradiol 10 mcg vaginal twice a week prn 
3. Gabapentin 300 mg PO BID 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. orphenadrine citrate 100 mg oral DAILY 
6. Pyridoxine Dose is Unknown  PO DAILY 
7. Vitamin D Dose is Unknown  PO DAILY 
8. coenzyme Q10 unknown  oral unknown 
9. melatonin unknown  oral unknown 
10. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Neutra-Phos 1 PKT PO BID Duration: 3 Days 
RX *potassium, sodium phosphates [Phos-NaK] 280 mg-160 mg-250 mg 
1 powder(s) by mouth twice a day Disp #*6 Packet Refills:*0 
2.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every four (4) hours Disp #*12 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY Duration: 3 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*3 Tablet Refills:*0 
4.  coenzyme Q10 1 tablet oral DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  melatonin 1 tablet oral QHS  
7.  Pyridoxine 100 mg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  
9.  ClonazePAM 0.5 mg PO BID  
10.  estradiol 10 mcg vaginal twice a week prn  
11.  Gabapentin 600 mg PO QHS  
12.  Levothyroxine Sodium 88 mcg PO DAILY  
13.  orphenadrine citrate 100 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Severe tardive dyskinesia
Dysphagia
Severe protein calorie malnutrition
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted with worsening difficulty swallowing and 
weight loss.  You had a PEG tube placed to give you tube feeds.  
You tolerated the procedure well and are being discharged with 
tube feeds to improve your malnutrition.  You can continue 
eating by mouth for comfort but for now the tube feeds will 
account for 100% of your nutritional needs.
 
Followup Instructions:
___